US04863482
Preparation of 4-(β-methoxyethoxy)-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene
0.09 mole (25 g) of 4-chloro-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene, synthesized in stage 1 of example 2, was added to a solution of 11.9 g of pelletized potash in 60 ml of 2-methoxyethanol and 25 ml of N-methylpyrrolidone and heated for 4 hours over a boiling water bath. The reaction medium was diluted with 350 ml of ice water and the desired product obtained by high pressure liquid chromatography (HPLC). About 150 ml of the aqueous solution obtained by dilution of the reaction medium were injected onto a C18RD chromatographic column (Instrument: Waters Prep 500). The desired product was eluted by a 40% methanol--60% water solution. After evaporation of the fractions containing the desired product, a dry extract was obtained which was recrystallized from isopropanol. After recrystallization, it melted at 116° C.

reactant | 4-chloro-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene | 0.09 mole, 25 g | ClC1=CC(=C(C(=C1)NCCO)[N+](=O)[O-])NCCO | C10H14ClN3O4
reactant | potash | 11.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methoxyethanol | 60 ml | COCCO | C3H8O2
solvent | N-methylpyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(β-methoxyethoxy)-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene | COCCOC1=CC(=C(C(=C1)NCCO)[N+](=O)[O-])NCCO | C13H21N3O6
